US07220759B2
By the reaction in the same manner as in Example 21a, using 3-(piperidin-4-yl)-2H-isoquinolin-1-one hydrochloride (500 mg) and 4-bromo-1-butanol (434 mg), 3-[1-(4-hydroxybutyl)piperidin-4-yl]-2H-isoquinolin-1-one (50 mg) was obtained.

reactant | 3-(piperidin-4-yl)-2H-isoquinolin-1-one hydrochloride | 500 mg | Cl.N1CCC(CC1)C=1NC(C2=CC=CC=C2C1)=O
reactant | 4-bromo-1-butanol | 434 mg | BrCCCCO | C4H9BrO
product | 3-[1-(4-hydroxybutyl)piperidin-4-yl]-2H-isoquinolin-1-one | 50 mg | OCCCCN1CCC(CC1)C=1NC(C2=CC=CC=C2C1)=O | C18H24N2O2
